US04105690
An acetic acid solution of acetamidoglycolic acid is prepared by distilling under vacuum without exceeding 40° C the water from a mixture of 74 g of aqueous solution of 50% glyoxylic acid (0.5 mole) and 29.55 g of acetamide (0.5 mole).

reactant | glyoxylic acid | 0.5 mole | C(C=O)(=O)O | C2H2O3
reactant | acetamide | 0.5 mole, 29.55 g | C(C)(=O)N | C2H5NO
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | acetamidoglycolic acid | C(C)(=O)NC(C(=O)O)O | C4H7NO4
